US07138425B2
c) 2-[4-Morpholinyl-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(5-amino-2-(4-morpholinyl)phenyl)-5-phenylbenzoxazole (175 mg, 0.47 mmol) and 1,2,4-benzenetricarboxylic anhydride (90 mg, 0.47 mmol) the title compound was obtained (136 mg, 53%). 1H NMR (DMSO) δ 8.43(dd, 1H), 8.32(s, 1H), 8.18(d, 1H), 8.09(m, 2H), 7.90(d, 1H), 7.75(m, 3H), 7.65(dd, 1H), 7.50(t, 2H), 7.38(m, 2H), 3.80(m, 4H), 3.05(m, 4H). MS 546 m/z (M+H)+.

reactant | 2-(5-amino-2-(4-morpholinyl)phenyl)-5-phenylbenzoxazole | 0.47 mmol, 175 mg | NC=1C=CC(=C(C1)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2)N2CCOCC2 | C23H21N3O2
reactant | 1,2,4-benzenetricarboxylic anhydride | 0.47 mmol, 90 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[4-Morpholinyl-3-(5-phenylbenzoxazol-2-yl)phenyl]-1,3-dioxo-2,3-dihydro-1H-isoindole-5-carboxylic acid | N1(CCOCC1)C1=C(C=C(C=C1)N1C(C2=CC=C(C=C2C1=O)C(=O)O)=O)C=1OC2=C(N1)C=C(C=C2)C2=CC=CC=C2 | C32H23N3O6
